US07491735B2
To a solution of 4-[(4-bromo-phenyl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester (1.36 g, 3.67 mmol) in DMF (18 mL) was added NaH (60% in mineral oil, 367 mg, 9.17 mmol) and the mixture was stirred at room temperature for 10 minutes. 2,6-Difluoropyridine (1.00 mL, 11.0 mmol) was added and the mixture was heated at 70° C. overnight. Work-up and purification gave 4-[(4-bromo-phenyl)-(6-fluoro-pyridin-2-yloxy)-methyl]-piperidine-1-carboxylic acid tert-butyl ester as an off-white solid (1.60 g, 94%).

reactant | 4-[(4-bromo-phenyl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 3.67 mmol, 1.36 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C1=CC=C(C=C1)Br | C17H24BrNO3
reactant | NaH | 9.17 mmol, 367 mg | [H-].[Na+]
reactant | 2,6-Difluoropyridine | 11.0 mmol, 1.00 mL | FC1=NC(=CC=C1)F | C5H3F2N
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | 4-[(4-bromo-phenyl)-(6-fluoro-pyridin-2-yloxy)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 1.60 g, 94% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(OC1=NC(=CC=C1)F)C1=CC=C(C=C1)Br | C22H26BrFN2O3
